Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
weight loss, fatigue, dysphagia/odynophagia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F w/ PMH RA, COPD, MVP, hypothyroidism who 
presents with 43 lb wt loss in 6 mo.  
.  
More specifically, the pt and her family state the pt has lost 
___ over the last 2 mo and is now down to 87 lbs. She has 
also developed worstening SOB over the last several wks to the 
point where she can only walk about 8 ft at a time now. She has 
recently been started on lasix for new- onset leg swelling as 
well.  
.  
Of note, the pt was seen by her rheumatologist, Dr. ___ at 
the beginning of ___ who noted a spot in her throat and sent her 
to ENT in ___, Dr. ___ did a laryngoscopy and 
noted the pt had thrush and a raw area near her larynx c/w GERD. 
Since then, she has been on nystatin and omeprazole with 
improvement in her odynophagia. However, she has still had poor 
appetite and early satiety.  
.  
She was referred to the ED today by her rheumatologist, Dr. 
___ a malignancy workup given her continued wt loss and 
SOB. In the ED, labs were unremarkable except for Hct 28 from 38 
___. She was guaiac neg. EKG was unremarkable. U/A was negative 
and CXR showed "Pulmonary emphysema. Increased interstitial 
markings most notably at the bases raises the possibility of 
fibrosis." Vitals prior to transfer included: VS: 98.1, 99/50, 
14, 90, 95% RA.  
.  
On arrival to the floor, pt was comfortable with a cough which 
she states has been going on for several wks productive of a 
pink/yellow thick sputum. She also c/o chronic pain ___ RA in 
her knees and feet. She c/o blurry vision sometimes when she is 
taking oxycontin. Her family also states she has been confused 
at times at home- loosing track of a conversation and even 
talking nonsense at times. She also has had low grade fevers up 
to 100 almost nightly. She c/o constipation at times with 
oxycontin.  
.  
ROS: Denies chills, night sweats, headache, rhinorrhea, 
congestion, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, BRBPR, melena, dysuria, hematuria, swollen glands.  

 
Past Medical History:
Rheumatoid arthritis  
COPD  
MVP  
hypothyoidism  
s/p appendectomy as a child  
s/p tonsilectomy as a child  
s/p cholecystectomy in her ___  
Pt states her last ___ was ___, colonoscopy 7 mo ago for 
diarrhea with "collagenous colitis". Went to ___ for physical 
with pap ___
 
Social History:
___
Family History:
Aunt with stomach cancer at ___ yo. Brother with lung cancer in 
his ___- deceased ___ yrs ago. Dtr recently with carcinoma of 
small intestines. Father with heart disease. Brother with 
___  

 
Physical Exam:
On admission
VS: 99.1 102/54 85 18 100% on RA  
GENERAL: Cachectic elderly F in NAD, appropriate.  
HEENT: NC/AT, sclerae anicteric, MMM, OP clear.  
NECK: Supple, no thyromegaly, no JVD.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: good air movement, resp unlabored, crackles throughout, 
L>R.  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: WWP, 2+ pedal edema bilat, 2+ DP bilat.  
SKIN: No rashes. SKs noted on back  
LYMPH: No cervical, axillary or inguinal LAD.  
NEURO: Awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ in upper extremities bilat, sensation grossly intact 
throughout, gait not tested.  

On discharge:
Unchanged
 
Pertinent Results:
___ 06:30AM BLOOD WBC-8.0 RBC-3.66* Hgb-9.5* Hct-29.6* 
MCV-81* MCH-25.9* MCHC-32.1 RDW-15.0 Plt ___
___ 06:30AM BLOOD Plt ___
___ 11:50AM BLOOD ESR-90*
___ 06:30AM BLOOD Glucose-99 UreaN-7 Creat-0.4 Na-134 K-4.0 
Cl-101 HCO3-27 AnGap-10
___ 11:50AM BLOOD ALT-13 AST-23 LD(LDH)-225 AlkPhos-119* 
Amylase-43 TotBili-0.6
___ 11:50AM BLOOD Lipase-24
___ 11:50AM BLOOD cTropnT-<0.01
___ 06:30AM BLOOD Calcium-8.5 Phos-2.7 Mg-1.9
___ 11:50AM BLOOD Albumin-3.0* Calcium-8.9 Phos-3.7 Mg-2.0 
Iron-6*
___ 11:50AM BLOOD calTIBC-239* Ferritn-134 TRF-184*
___ 11:50AM BLOOD TSH-3.9
___ 06:15AM BLOOD CRP-131.3*
___ 06:15AM BLOOD IgA-295
___ 06:30AM BLOOD HIV Ab-NEGATIVE
___ 06:15AM BLOOD tTG-IgA-6

___: CXR: IMPRESSION: Pulmonary emphysema. Increased 
interstitial markings most notably at the bases raises the 
possibility of fibrosis. Given lack of prior exam for 
comparison, an acute component is difficult to exclude. Patchy 
right upper lobe opaicty, infection can not be excluded. Suggest 
comparison with prior studies if available. 

___: CT torso: 
1. No evidence of malignancy within the chest, abdomen, or 
pelvis. 
2. Marked subpleural and perifissural bibasilar predominant 
reticular 
opacities and scattered areas of bronchiectasis, likely chronic 
interstitial lung disease related to rheumatoid arthritis. 
3. Borderline mediastinal and axillary adenopathy, likely 
reactive. 
4. Left hepatic lobe subcentimeter hypodensity too small to 
fully 
characterize but could represent a cyst. 
5. Right renal cyst. 

___: CT Neck:
1. No gross mucosal abnormalities or mass within the larynx. 
2. Mediastinal lymphadenopathy, as described above. For further 
details 
regarding the mediastinum and lungs, please see the chest CT 
report dated ___. 

 
Brief Hospital Course:
Ms. ___ is a ___ yo F w/ PMH RA, COPD, MVP, hypothyroidism who 
presents with 43 lb wt loss in 6 mo.  
.  
# Wt loss- given the pt's extreme wt loss over a short period of 
time, malignancy  was the most concerning possibility in the 
differential diagnosis. Exam this admission was non-focal (no 
LAD, palpable abd mass).  CXR showed fibrosis but no mass.  This 
could explain her SOB but unlikely to cause this amount of wt 
loss. Per pt, she was late on her ___ but up to date on 
screening pap, colonoscopy. Breast exam here was unremarkable.  
A CT torso and neck as above revealed no e/o malignancy.  She 
had a lab workup as above which included TTG-IgA, total IgA, 
LFTs, TSH and HIV which were nl.  She did have an elevated ESR 
at 90 from 26 in ___ and CRP of 131.3 from 20.9 in ___.  
Rheumatologic disease including her RA with associated pulmonary 
fibrosis was considered the most likely cause of this.  Also, 
she was noted to have an iron deficiency anemia with a nadir HCT 
of 24 in house and Iron 6 with iron: TIBC 2.5%.  She was started 
on BID ferrous sulfate given her h/o constipation which can be 
uptitrated to TID as an outpt. She was guaiac neg in house and 
was given 1u PRBCs with an appropriate bump of her HCT to 29.6 
on the morning of discharge.  GI was consulted on HD #2 for help 
with her weight loss workup and recommended outpt EGD which was 
arranged to be done as an outpt on ___ here at ___. At the 
time of completion of this discharge summary, the EGD has been 
completed and showed no e/o thrush or cause of wt loss. She did 
have several biopsies taked which are still pending. She had no 
e/o thrush on exam here but her home nystatin and PPI were 
continued.  Nutrition was consulted this admission and pt did 
have some improvement in her appetite here. 
.
# Symptomatic anemia - the patient received one unit PRBC for 
extreme fatigue attributed to her anemia. She was also started 
on oral supplementation for her iron deficiency.  
.
# COPD- She c/o worstening cough and sputum production for 
several wks. Pt had diffuse crackles on exam and CXR and CT with 
likely fibrosis. She was not hypoxic when ambulating here with 
O2 sats 93% or better maintained on walking 20 ft. Pt with 
severely worstening SOB unclear if ___ primary lung issue like 
worstening fibrosis or anemia or overall failure and weakness. 
Her advair was increased to BID this admission.  Her SOB did 
slightly improve after her transfusion.  She will undergo an 
outpatient pulmonology workup at the discretion of her outpt 
providers.
.  
# hypothyroidism- continued home levothyroxine. TSH nl here.  
.  
# RA- continued home oxycontin
.  
# FEN: regular diet with ensure TID was provided in house
# PPX: hep sc, bowel regimen were provided in house
# ACCESS: PIV  
# CODE: confirmed full  on admission
# CONTACT: Dtr (HCP) ___ ___ 

Transitional issues:
-Pt needs rpt screening Mammogram as an outpt 
-Pt should have f/u with her pulmonologist within 2 weeks
-Ferrous sulfate BID should be uptitrated to TID pending GI 
tolerance.  Blood work should be repeated to assess for response 
in 1 month. The patient received one unit PRBC while admitted.
-f/u biopsy results from EGD.
 
Medications on Admission:
oxycontin 20mg Q am and QHS, 10mg Q pm  
humira 40mg SC Q 2 wks  
omeprazole 20mg BID  
advair 50/250 1 puff daily  
aspirin 81mg daily  
miralax prn  
MVI daily  
lasix 20mg daily  
levothyroxine 100mcg daily  
citrical 3 tabs daily  
nystatin swish and swallow TID  
lactaid PRN  

 
Discharge Medications:
1. oxycodone 20 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO BID (2 times a day).  
2. oxycodone 10 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO DAILY (Daily).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
4. fluticasone-salmeterol 250-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
5. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): hold if you have loose stools.
Disp:*60 Capsule(s)* Refills:*2*
8. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. nystatin 100,000 unit/mL Suspension Sig: One (1) dose PO Q8H 
(every 8 hours).  
10. polyethylene glycol 3350 17 gram/dose Powder Sig: Seventeen 
(17) grams PO BID (2 times a day) as needed for constipation: 
please dissolve in 8 ounces of water.
Disp:*527 grams* Refills:*0*
11. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
12. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
13. Tylenol-Codeine #3 300-30 mg Tablet Sig: ___ Tablets PO four 
times a day as needed for pain: Do not take more than 4 grams 
tylenol (acetaminophen) daily.  
14. Humira 40 mg/0.8 mL Kit Sig: Forty (40) mg Subcutaneous 
every 2 wks.  
15. Citracal + D 315-200 mg-unit Tablet Sig: One (1) Tablet PO 
twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Weight loss
Secondary diagnoses:
Iron deficiency anemia
Candidal Esophagitis
Rheumatoid arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with weight loss and shortness of breath. 
While you were here, we did blood tests and a CT scan to look 
for a cause of your weight loss.  Your CT scan showed pulmonary 
fibrosis likely related to your rheumatoid arthritis. This could 
be contributing to your shortness of breath. For this, you 
should follow up with your pulmonologist.  We also discovered 
that you are severely iron deficient. We started you on iron 
supplements which could make you constipated so please take the 
docusate, senna and miralax was are giving you.  We also set you 
up for an Endoscopy with out GI doctors on ___ to assess 
your ___ infection for which you are on nystatin.  

Please follow up as below. It was a pleasure taking care of you.

The following changes were made to your home medications:

START ferrous sulfate twice daily for your iron deficiency 
anemia. This can be increased to 3 times daily by your PCP if 
you do not have too much constipation.

INCREASE your Advair to twice daily for your shortness of breath

START docusate and senna for constipation.

INCREASE miralax to twice daily as needed for constipation. 
Otherwise, please continue your usual home medications. 
 
Followup Instructions:
___